US04223025
O,O-Diethyl O-(3,5-dichloro-6-fluoro-2-pyridinyl) phosphorothioate
A mixture was prepared by admixing, with stirring, 9.7 g (0.053 m) of 3,5-dichloro-6-fluoro-2-pyridinol, 5.6 g (0.053 m) of sodium carbonate and 100 ml of dimethylformamide. To this mixture was added all at once, at room temperature, with stirring, 9.9 g (0.053 m) of O,O-diethyl phosphorochloridothioate. The resulting mixture was heated at 60°-65° C. with stirring for one hour. The mixture was cooled to room temperature and filtered to remove insolubles. The solvent was removed by distillation under reduced pressure and the residue dissolved in 100 ml of benzene. The mixture was washed with water and the organic layer separated, dried and filtered. The benzene was removed by evaporation under reduced pressure. The residue (15 g) was crystallized from 15 ml of hexane giving 5.9 g of the desired O,O-diethyl O-(3,5-dichloro-6-fluoro-2-pyridinyl) phosphorothioate. The product melted at 31°-33° C. and upon analysis, was found to have carbon, hydrogen and nitrogen contents of 32.30, 3.30 and 4.19 percent, respectively, as compared with the theoretical contents of 32.36, 3.32 and 4.19 percent, respectively, as calculated for the above named compound.

reactant | 3,5-dichloro-6-fluoro-2-pyridinol | 9.7 g | ClC=1C(=NC(=C(C1)Cl)F)O | C5H2Cl2FNO
reactant | sodium carbonate | 5.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | O,O-diethyl phosphorochloridothioate | 9.9 g | P(OCC)(OCC)(Cl)=S | C4H10ClO2PS
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | O,O-Diethyl O-(3,5-dichloro-6-fluoro-2-pyridinyl) phosphorothioate | P(OCC)(OCC)(OC1=NC(=C(C=C1Cl)Cl)F)=S | C9H11Cl2FNO3PS
